US09233068B2
The Carbopol 934P and Poloxamer 407 (BASF Corp.) are first suspended in the TRIS HCl buffer (0.1 M) and the components are mixed under agitation overnight at 4° C. to ensure complete dissolution. The methylparaben is added and further stirring allowed until complete dissolution is observed. Ganciclovir sodium is mixed in while maintaining stirring to produce a 2.0% ganciclovir mucoadhesive, thermoreversible gel formulation. The mixture is maintained below room temperature until use.

reactant | Carbopol 934P | C=CC(=O)O | C3H4O2
reactant | TRIS HCl | 0.1 M | C(C(CO)(CO)N)O.Cl
reactant | methylparaben | COC(=O)C1=CC=C(O)C=C1 | C8H8O3
reactant | Ganciclovir sodium | C1=NC2=C(N1COC(CO)CO)N=C(N=C2[O-])N.[Na+]
product | ganciclovir | 2.0% | C1=NC2=C(N1COC(CO)CO)N=C(N=C2O)N | C9H13N5O4
